US06008230
To a suspension of 8-(2,6-dichlorobenzoylamino)-1,4-dihydro-3-methyl-4-oxoquinoline (130 mg), potassium carbonate (155 mg) and N-methylpyrrolidone (3 ml) was added cinnamyl bromide (81.2 mg), and the mixture was stirred for 2.5 hours at ambient temperature. The mixture was extracted with ethyl acetate, and the extract was washed with water and brine, dried over magnesium sulfate and concentrated in vacuo. The residue was crystallized from ethanol to give 4-cinnamyloxy-8-(2,6-dichlorobenzoylamino)-3-methylquinoline (125 mg) as white crystal.

reactant | 8-(2,6-dichlorobenzoylamino)-1,4-dihydro-3-methyl-4-oxoquinoline | 130 mg | ClC1=C(C(=O)NC=2C=CC=C3C(C(=CNC23)C)=O)C(=CC=C1)Cl | C17H12Cl2N2O2
reactant | potassium carbonate | 155 mg | C([O-])([O-])=O.[K+].[K+]
reactant | cinnamyl bromide | 81.2 mg | C(C=CC1=CC=CC=C1)Br | C9H9Br
solvent | N-methylpyrrolidone | 3 ml | CN1C(CCC1)=O | C5H9NO
product | 4-cinnamyloxy-8-(2,6-dichlorobenzoylamino)-3-methylquinoline | 125 mg | C(C=CC1=CC=CC=C1)OC1=C(C=NC2=C(C=CC=C12)NC(C1=C(C=CC=C1Cl)Cl)=O)C | C26H20Cl2N2O2
